US08530486B2
2-phthalimidoethane-N-methylsulfonamide
2-Phthalimidoethanesulfonyl chloride (2.0 g) was added portion wise to a solution of 2.0 M methylamine in THF (15 ml) and the solution obtained this way was stirred at room temperature. After 48 hours the reaction mixture was poured in water (50 ml) causing the title compound to precipitate. The product was collected by filtration and recrystallized from EtOH:water, 50:1 to yield: 1.04 g (48%) of the desired product as a solid.

reactant | 2-Phthalimidoethanesulfonyl chloride | 2.0 g | C1(C=2C(C(N1CCS(=O)(=O)Cl)=O)=CC=CC2)=O | C10H8ClNO4S
reactant | methylamine | 2.0 M | CN | CH5N
solvent | THF | 15 ml | C1CCOC1 | C4H8O
solvent | water | 50 ml | O | H2O
product | 2-phthalimidoethane N-methylsulfonamide | C1(C=2C(C(N1CC)=O)=CC=CC2)=O.CNS(=O)=O | InChI=1S/C10H9NO2.CH5NO2S/c1-2-11-9(12)7-5-3-4-6-8(7)10(11)13;1-2-5(3)4/h3-6H,2H2,1H3;5H,1H3,(H,2,3,4)
